US06887868B2
Preparation of (rac)-2-{[8-(2,4-dichlorophenyl)-2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-yl]methyl}-1H-isoindole-1,3(2H)-dione
A mixture of (rac)-2-[(8-iodo-2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-yl)methyl]-1H-isoindole-1,3(2H)-dione (0.044 g, 0.098 mmol), 2,4-dichlorophenylboronic acid (0.028 g, 0.147 mmol), tetrakis(triphenylphosphine)palladium (0.011 g, 0.01 mmol) and K2CO3 (0.054 g, 0.39 mmol) in THF-DMA (1:1, 2.0 mL) was heated at 66° C. for 2 h. 2,4-Dichlorophenylboronic acid (0.02 g, 0.105 mmol), tetrakis(triphenyl-phosphine)palladium (0.007 g, 0.006 mmol) and K2CO3 (0.02 g, 0.145 mmol) were added and heat was continued for 24 h. 2,4-Dichlorophenylboronic acid (0.02 g, 0.105 mmol) and tetrakis(triphenyl-phosphine)palladium (0.007 g, 0.006 mmol) were again added and heat was continued for another 3 h. After cooling down to rt, water (10.0 mL) and EtOAc (10.0 mL) were added and separated. The aqueous layer was extracted with EtOAc (2×). The combined EtOAc solution was dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to prep TLC (EtOAc/hexane, 1:2) to give 0.015 g (32%) of colorless solid as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.92-7.90 (m, 2 H), 7.81-7.78 (m, 2 H), 7.45 (d, J=2.0 Hz, 1 H), 7.27-7.18 (m, 2 H), 6.80 (s, 1 H), 6.74 (s, 1 H), 4.51-4.47 (m, 2 H), 4.13-4.09 (m, 1 H), 4.03-3.97 (m, 1 H), 3.83-3.79 (m, 1 H), 3.46-3.42 (m, 1 H), 3.38-3.35 (m, 1 H), 3.23-3.19 (m, 1 H), 3.16-3.14 (m, 1 H).

reactant | (rac)-2-[(8-iodo-2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-yl)methyl]-1H-isoindole-1,3(2H)-dione | 0.098 mmol, 0.044 g | IC=1C=C2C(CN3C2=C(C1)OCC3)CN3C(C1=CC=CC=C1C3=O)=O | C19H15IN2O3
reactant | 2,4-dichlorophenylboronic acid | 0.147 mmol, 0.028 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 0.39 mmol, 0.054 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-Dichlorophenylboronic acid | 0.105 mmol, 0.02 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 0.145 mmol, 0.02 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-Dichlorophenylboronic acid | 0.105 mmol, 0.02 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | water | 10.0 mL | O | H2O
solvent | THF DMA | 2.0 mL | C1CCOC1.CC(=O)N(C)C
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 10.0 mL | CCOC(=O)C | C4H8O2
product | (rac)-2-{[8-(2,4-dichlorophenyl)-2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-yl]methyl}-1H-isoindole-1,3(2H)-dione | 0.015 g, 32% | ClC1=C(C=CC(=C1)Cl)C=1C=C2C(CN3C2=C(C1)OCC3)CN3C(C1=CC=CC=C1C3=O)=O | C25H18Cl2N2O3
